US06153608
1-[(4-Chloro-5-isoquinolinyl)sulfonyl]-hexahydro-1H-1,4-diazepine dihydrochloride
Using 2.08 g of 4-chloroisoquinoline (synthesized in accordance with J. Org. Chem., 1961, 26, 468), 4-chloro-5-chlorosulfonylisoquinoline was synthesized as in Reference Example 1. Then, 1.30 g of this compound was reacted with 1.20 g of 1-(tert-butoxycarbonyl)-hexahydro-1H-1,4-diazepine and the reaction mixture was after-treated in the same manner as in Example 1 to provide 0.80 g of the objective compound (white crystals).

reactant | 4-chloroisoquinoline | 2.08 g | ClC1=CN=CC2=CC=CC=C12 | C9H6ClN
reactant | 4-chloro-5-chlorosulfonylisoquinoline | ClC1=CN=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H5Cl2NO2S
reactant | 1-(tert-butoxycarbonyl)-hexahydro-1H-1,4-diazepine | 1.20 g | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
product | 1-[(4-Chloro-5-isoquinolinyl)sulfonyl]-hexahydro-1H-1,4-diazepine dihydrochloride | 0.80 g | Cl.Cl.ClC1=CN=CC2=CC=CC(=C12)S(=O)(=O)N1CCNCCC1 | InChI=1S/C14H16ClN3O2S.2ClH/c15-12-10-17-9-11-3-1-4-13(14(11)12)21(19,20)18-7-2-5-16-6-8-18;;/h1,3-4,9-10,16H,2,5-8H2;2*1H
